US06498165B1
2-[(S)-1-Phenylethylamino]-4-[5-(thiazol-2-yl)benzimidazol-1-yl]pyrimidine
A solution containing 28 mg of 2-[(S)-1-phenylethylamino]-4-[5-iodobenzimidazol-1-yl]pyrimidine, 60 μL 2-(tributylstannyl)-thiophene, 0.7 mg Pd(PPh3)4 and 3 mL DMF was stirred under nitrogen at 100° C. for 2 hours. The solution was cooled to room temperature, added to 100 mL of ethyl ether, washed three times with water and then once with brine. The organic phase was dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography eluting with methanol in methylene chloride to give 11.1 mg of the title compound. RF: 0.5 (5% MeOH in CH2Cl2). 1H NMR (500 MHz, CD3OD): δ 1.59 (d, J=7.1 Hz, 3H), 5.13 (m, 1H), 6.90 (d, J=5.7 Hz, 1H), 7.06 (dd, J=5.0, 3.7 Hz, 1H), 7.22 (t, J=7.3 Hz, 1H), 7.29-7.54 (m, 7H), 7.76 (m, 1H), 7.86 (br s, 1H), 8.31 (br s, J=5.2 Hz, 1H), 8.68 (m, 1H). Mass Spectrum (CH3CN-TFA-NH4HCO2-ESI): 398.1 (M+1).

reactant | 2-[(S)-1-phenylethylamino]-4-[5-iodobenzimidazol-1-yl]pyrimidine | 28 mg | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)I | C19H16IN5
reactant | 2-(tributylstannyl)-thiophene | 60 μL | C(CCC)[Sn](C=1SC=CC1)(CCCC)CCCC
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl ether | 100 mL | C(C)OCC | C4H10O
product | 2-[(S)-1-Phenylethylamino]-4-[5-(thiazol-2-yl)benzimidazol-1-yl]pyrimidine | 11.1 mg | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)C=2SC=CN2 | C22H18N6S
